US08957102B2
(Step 3) benzyl2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
To a solution of benzyl 2-(4-fluorophenyl)-5-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (8.0 g, 0.024 mol) in dichloromethane (80 mL), methyl trifluoromethanesulfonate (4.8 g, 0.029 mol) was added and stirred at room temperature for 24 hours. The resulting mixture was extracted with dichloromethane and saturated baryta water. After phase separation, the aqueous layer was extracted again with dichloromethane. All the organic layers were collected, dried with Na2SO4 and then filtered. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate:hexane=4:1) to give the target compound (2.69 g, 32% yield).

reactant | benzyl 2-(4-fluorophenyl)-5-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 0.024 mol, 8.0 g | FC1=CC=C(C=C1)N1NC(=C(C1=O)C(=O)OCC1=CC=CC=C1)C | C18H15FN2O3
reactant | methyl trifluoromethanesulfonate | 0.029 mol, 4.8 g | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | benzyl2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 2.69 g, 32% yield | C(C1=CC=CC=C1)OC(=O)C=1C(N(N(C1C)C)C1=CC=C(C=C1)F)=O | C19H17FN2O3
